US09127007B2
(d). methyl 1H-pyrrole-3-carboxylate
To a solution of potassium-tert-butoxide (105 g) in THF (1.2 L) was added dropwise a solution of methyl acrylate (66 g) and toluenesulfonylmethyl isocyanide (150 g) in THF (300 ml). The resulting mixture was stirred at room temperature for 2 h. The reaction was quenched with water and extracted with ethyl acetate. The organic phase was dried (MgSO4), filtered and concentrated. The crude product was purified by chromatography on silica gel (Petrol:ethyl acetate=5:1) to give the desired compound.

reactant | potassium-tert-butoxide | 105 g | CC(C)([O-])C.[K+]
reactant | methyl acrylate | 66 g | C(C=C)(=O)OC | C4H6O2
reactant | toluenesulfonylmethyl isocyanide | 150 g | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | methyl 1H-pyrrole-3-carboxylate | N1C=C(C=C1)C(=O)OC | C6H7NO2
